US07371763B2
4-(2-Pyridinylthio)aniline:
3-(Trifluoromethyl)-4-(4-pyridinylthio)aniline: A slurry of 3-trifluoromethyl-4-(4-pyridinylthio)nitrobenzene (3.8 g, 12.7 mmol), iron powder (4.0 g, 71.6 mmol), acetic acid (100 mL), and water (1 mL) were stirred at room temp. for 4 h. The mixture was diluted with Et2O (100 mL) and water (100 mL). The aqueous phase was adjusted to pH 4 with a 4 N NaOH solution. The combined organic layers were washed with a saturated NaCl solution (100 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was filtered through a pad of silica (gradient from 50% EtOAc/50% hexane to 60% EtOAc/40% hexane) to afford the desired product (3.3 g): TLC (50% EtOAc/50% hexane) Rf 0.10; 1H-NMR (DMSO-d6) δ 6.21 (s, 2H), 6.84-6.87 (m, 3H), 7.10 (d, J=2.4 Hz, 1H), 7.39 (d, J=8.4 Hz, 1H), 8.29 (d, J=6.3 Hz, 2H). A3c. General Method for Substituted Aniline Formation Via Nitroarene Formation Through Nucleophilic Aromatic Substitution, Followed by Reduction

reactant | 3-(Trifluoromethyl)-4-(4-pyridinylthio)aniline | FC(C=1C=C(N)C=CC1SC1=CC=NC=C1)(F)F | C12H9F3N2S
reactant | 3-trifluoromethyl-4-(4-pyridinylthio)nitrobenzene | 12.7 mmol, 3.8 g | FC(C=1C=C(C=CC1SC1=CC=NC=C1)[N+](=O)[O-])(F)F | C12H7F3N2O2S
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
catalyst | iron | 71.6 mmol, 4.0 g | [Fe] | Fe
solvent | water | 1 mL | O | H2O
product | 4-(2-Pyridinylthio)aniline | 3.3 g | N1=C(C=CC=C1)SC1=CC=C(N)C=C1 | C11H10N2S
